US07202252B2
By the method of Example 2, 3-pyridylacetic acid is reacted with 5,6-diamino-1-[2-(4-nitrophenyl)ethyl]-3-propyluracil (6) to yield 3-[2-(4-nitrophenyl)ethyl]-1-propyl-8-[(3-pyridyl)methyl]xanthine. By methods well known in the art, 3-[2-(4-nitrophenyl)ethyl]-1-propyl-8-[(3-pyridyl)methyl]xanthine is reduced with hydrazine hydrate or hydrogen gas in the presence of a palladium catalyst to yield 3-[2-(4-aminophenyl)ethyl]-1-propyl-8-[(3-pyridyl)methyl]xanthine.

reactant | 3-[2-(4-nitrophenyl)ethyl]-1-propyl-8-[(3-pyridyl)methyl]xanthine | [N+](=O)([O-])C1=CC=C(C=C1)CCN1C(N(C(C=2NC(=NC12)CC=1C=NC=CC1)=O)CCC)=O | C22H22N6O4
reactant | hydrazine hydrate | O.NN
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
product | 3-[2-(4-aminophenyl)ethyl]-1-propyl-8-[(3-pyridyl)methyl]xanthine | NC1=CC=C(C=C1)CCN1C(N(C(C=2NC(=NC12)CC=1C=NC=CC1)=O)CCC)=O | C22H24N6O2
